US04933355
(E)-3-[2-(3-p-Bromophenylureido)thiazol-4-yl]allyl alcohol
Following a procedure similar to that described in Preparation 48, crude ethyl 3-[2-(3-p-bromophenylureido)thiazol-4-yl]acrylate was prepared from 1 g of 2-(3-p-bromophenylureido)thiazole-4-carbaldehyde, 1.2 g of ethoxycarbonylmethylenetriphenylphosphorane and 20 ml of tetrahydrofuran. Subsequently. following a procedure similar to that described in Preparation 49, the desired compound was prepared from 1.1 g of the above crude ethyl ester, 14 ml of a 1M hexane solution of diisobutyl aluminum hydride and 30 ml of tetrahydrofuran. The resulting product was a white powder having the following physical properties.

reactant | ethyl 3-[2-(3-p-bromophenylureido)thiazol-4-yl]acrylate | BrC1=CC=C(C=C1)NC(NC=1SC=C(N1)C=CC(=O)OCC)=O | C15H14BrN3O3S
reactant | 2-(3-p-bromophenylureido)thiazole-4-carbaldehyde | 1 g | BrC1=CC=C(C=C1)NC(NC=1SC=C(N1)C=O)=O | C11H8BrN3O2S
reactant | ethoxycarbonylmethylenetriphenylphosphorane | 1.2 g | C(C)OC(=O)C=P(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C22H21O2P
reactant | diisobutyl aluminum hydride | [H-].C(C(C)C)[Al+]CC(C)C
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
solvent | hexane | 1M | CCCCCC | C6H14
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
product | (E)-3-[2-(3-p-Bromophenylureido)thiazol-4-yl]allyl alcohol | BrC1=CC=C(C=C1)NC(NC=1SC=C(N1)/C=C/CO)=O | C13H12BrN3O2S
